US08076336B2
6-Cyclobutoxy-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine
Cyclobutanol (2.43 ml) was initially charged at RT with stirring and cooled almost to 0° C. with an ice bath. Subsequently, the mixture was admixed with portions of sodium hydride (146 mg). The suspension formed was heated to 55° C. for 30 min and admixed with portions of 6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine hydrobromide (W2.001, 200 mg), suspended in cyclobutanol (5 ml). After stirring at 55° C. for 1.5 h, the mixture was left to stand at RT overnight and then admixed with water and extracted three times with dichloromethane. The combined organic phases were dried over sodium sulfate and, after the desiccant had been filtered off, dried under reduced pressure. 136 mg of the title compound were obtained in solid form. LC-MS rt: 0.82 min [M+H]+: 206.2 (met. a)

reactant | sodium hydride | 146 mg | [H-].[Na+]
reactant | 6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine hydrobromide | 200 mg | Br.ClC=1C=CC=2N(N1)C(=NN2)N
reactant | water | O | H2O
reactant | cyclobutanol | 5 ml | C1(CCC1)O | C4H8O
reactant | Cyclobutanol | 2.43 ml | C1(CCC1)O | C4H8O
product | 6-Cyclobutoxy-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine | 136 mg | C1(CCC1)OC=1C=CC=2N(N1)C(=NN2)N | C9H11N5O
